US08486950B2
2-Bromo-N-(4-(2,6-dichlorobenzamido)pyridin-2-yl)thiazole-5-carboxamide
To a solution of N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (282 mg, 1.00 mmol), 5-bromothiophene-2-carboxylic acid (624 mg, 3.0 mmol) in N,N-dimethylformamide (5 mL) was added diisopropylethylamine (700 μL, 4.00 mmol), followed by O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.14 g, 3.0 mmol). The mixture was heated at 60° C. for 24 hours. The mixture was then concentrated under reduced pressure and the residue was partitioned between EtOAc (30 mL) and 1 N NaOH (20 mL). The aqueous layer was extracted with EtOAc (2×30 mL). The combined organic extracts were dried over Na2SO4, and concentrated under reduced pressure. The redidue was purified by silica gel column chromatography (0-40% EtOAc/hexane) to afford the desired product as an-off-white solid (141 mg, 30% yield). 1H NMR (400 MHz, DMSO) δ 11.24 (s, 1H), 8.65 (s, 1H), 8.44 (d, J=1.6 Hz, 1H), 8.33 (d, J=5.7 Hz, 1H), 7.66-7.47 (m, 5H). LCMS (ESI) m/z: 472.7 [M+H+].

reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 1.00 mmol, 282 mg | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | 5-bromothiophene-2-carboxylic acid | 3.0 mmol, 624 mg | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | diisopropylethylamine | 4.00 mmol, 700 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.0 mmol, 1.14 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Bromo-N-(4-(2,6-dichlorobenzamido)pyridin-2-yl)thiazole-5-carboxamide | 141 mg, 30% yield | BrC=1SC(=CN1)C(=O)NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C16H9BrCl2N4O2S
